US04115385
A mixture of 100 mg. (1 mmole) of potassium bicarbonate and 2.3 g. of 10% palladium-on-carbon, in a mixture of 12 ml. of methanol and 3 ml. of water, is stirred under an atmosphere of hydrogen until hydrogen uptake ceases. A solution of 464 mg. of 6-(2-phenoxyacetamido)-2,2-dimethyl-3-(1-benzyltetrazol-5-yl)penam in 10 ml. of ethyl acetate is then added, and stirring under an atmosphere of hydrogen is continued for an additional 5 hours. At this point the reaction mixture is filtered, and the residue is washed with aqueous methanol. The washings and the filtrate are combined and evaporated in vacuo. To this latter residue is added chloroform and water and the pH is adjusted to 8.0. The chloroform is removed and discarded, and fresh chloroform is added to the aqueous phase. The pH is lowered to 2.5 and the chloroform layer is separated. The dried chloroform is evaporated in vacuo, leaving 190 mg. (51% yield) of 6-(2-phenoxyacetamido)-2,2-dimethyl-3 -(5-tetrazolyl)penam.

reactant | potassium bicarbonate | 1 mmole | C([O-])(O)=O.[K+]
reactant | methanol | CO | CH4O
reactant | hydrogen | [H][H] | H2
reactant | 6-(2-phenoxyacetamido)-2,2-dimethyl-3-(1-benzyltetrazol-5-yl)penam | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2CC2=CC=CC=C2)C1=O | C23H24N6O3S
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 6-(2-phenoxyacetamido)-2,2-dimethyl-3 -(5-tetrazolyl)penam | 51% yield | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2)C1=O | C16H18N6O3S
